US08067590B2
N-[1-(4-{2-[2-Oxo-4-(thiophen-3-ylmethoxy)-2H-pyridin-1-yl]-ethyl}-benzyl)-piperidin-4-yl]-acetamide
To 30 mg (0.45 mmol) 1-[2-(4-hydroxymethyl-phenyl)-ethyl]-4-(thiophen-3-ylmethoxy)-1H-pyridin-2-one (example 4.1a) in 2.0 mL DCM is added 37 μL triethylamine (0.26 mmol) and subsequently 14 μL (0.18 mmol) methanesulfonyl chloride at RT. The reaction mixture is stirred 1 h at RT and additional 18 μL triethylamine (0.13 mmol) and 7 μL (0.09 mmol) methanesulfonyl chloride is added at RT and the reaction mixture is stirred 1 h at RT. 2.0 mL acetonitrile and 25 mg (0.18 mmol) N-piperidin-4-yl-acetamide are added and the reaction mixture is stirred for 1 h. A precipitate is formed and 1 mL of DMF is added and the reaction mixture is stirred overnight. The sole product formed (HPLC-MS analysis) is 1-[2-(4-chloromethyl-phenyl)-ethyl]-4-(thiophen-3-ylmethoxy)-1H-pyridin-2-one. The reaction mixture is diluted with EtOAc, washed twice with water and is dried over MgSO4. After filtration, the solvent is evaporated and 30 mg (95% yield) of 1-[2-(4-chloromethyl-phenyl)-ethyl]-4-(thiophen-3-ylmethoxy)-1H-pyridin-2-one is isolated. To 30 mg (0.09 mmol) 1-[2-(4-chloromethyl-phenyl)-ethyl]-4-(thiophen-3-ylmethoxy)-1H-pyridin-2-one in 2.0 mL DMF is added 26 mg (0.18 mmol) N-piperidin-4-yl-acetamide and 37 mg (0.27 mmol) potassium carbonate at RT. The reaction mixture is stirred overnight at RT, filtered and is directly transferred to a reverse HPLC for purification (Zorbax stable bond, C18; water (0.15% formic acid)/acetonitrile 95:5 to 10:90).

reactant | 1-[2-(4-chloromethyl-phenyl)-ethyl]-4-(thiophen-3-ylmethoxy)-1H-pyridin-2-one | 0.09 mmol, 30 mg | ClCC1=CC=C(C=C1)CCN1C(C=C(C=C1)OCC1=CSC=C1)=O | C19H18ClNO2S
reactant | N-piperidin-4-yl-acetamide | 0.18 mmol, 26 mg | N1CCC(CC1)NC(C)=O | C7H14N2O
reactant | potassium carbonate | 0.27 mmol, 37 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | N-[1-(4-{2-[2-Oxo-4-(thiophen-3-ylmethoxy)-2H-pyridin-1-yl]-ethyl}-benzyl)-piperidin-4-yl]-acetamide | O=C1N(C=CC(=C1)OCC1=CSC=C1)CCC1=CC=C(CN2CCC(CC2)NC(C)=O)C=C1 | C26H31N3O3S
